US08034814B2
1-(4-tert-Butyl-anilino)-4-[5-ethylamino-6-hydroxy-(pyridin-3-yl)-methyl]phthalazine
In analogy to Ex. 3, treatment of a solution of 1-(4-tert-butyl-anilino)-4-[5-ethylamino-6-methoxy-(pyridin-3-yl)-methyl]phthalazine in CHCl3 with Me3Sil, followed by hydrolysis gives the title compound. ES-MS: (M+H)+=428; HPLC(Grad20-100) tRet=11.9.

reactant | 1-(4-tert-butyl-anilino)-4-[5-ethylamino-6-methoxy-(pyridin-3-yl)-methyl]phthalazine | C(C)(C)(C)C1=CC=C(NC2=NN=C(C3=CC=CC=C23)CC=2C=NC(=C(C2)NCC)OC)C=C1 | C27H31N5O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-tert-Butyl-anilino)-4-[5-ethylamino-6-hydroxy-(pyridin-3-yl)-methyl]phthalazine | C(C)(C)(C)C1=CC=C(NC2=NN=C(C3=CC=CC=C23)CC=2C=NC(=C(C2)NCC)O)C=C1 | C26H29N5O
